US07166621B2
This Example illustrates the preparation of (5-chloro-3-pyridyloxy)-N-(1-methoxy-4-methylpent-2-yn-4-yl)-3-methoxypropionamide (Compound No 53 of Table 1)
2-Bromo-N-(1-methoxy-4-methylpent-2-yn-4-yl)-3-methoxypropionamide was reacted with 3-chloro-5-hydroxypyridine in a similar procedure to Example 10, Stage 2 to give the required product as a pale yellow oil.

reactant | 2-Bromo-N-(1-methoxy-4-methylpent-2-yn-4-yl)-3-methoxypropionamide | BrC(C(=O)NC(C#CCOC)(C)C)COC | C11H18BrNO3
reactant | 3-chloro-5-hydroxypyridine | ClC=1C=NC=C(C1)O | C5H4ClNO
product | (5-chloro-3-pyridyloxy)-N-(1-methoxy-4-methylpent-2-yn-4-yl)-3-methoxypropionamide | ClC=1C=C(C=NC1)OC(C(=O)NC(C#CCOC)(C)C)COC | C16H21ClN2O4
